US06696473B2
B. Preparation of N-{3-[3-Benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-4-oxothiazolidin-2-ylideneamino]-4-ethylaminophenyl}-2,2,2-trifluoroacetamide
In a manner similar to Example 30, intermediate 4′-ethylamino-3′-nitro-2,2,2-trifluoroacetanilide was hydrogenated and then condensed with 3-benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-2-methylthio-4-oxo-2-thiazolium p-toluenesulfonate to afford the title compound. MS(ESI): 584 (MH+).

reactant | 4′-ethylamino-3′-nitro-2,2,2-trifluoroacetanilide | C(C)NC1=C(C=C(NC(C(F)(F)F)=O)C=C1)[N+](=O)[O-] | C10H10F3N3O3
reactant | 3-benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-2-methylthio-4-oxo-2-thiazolium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C(C1=CC=CC=C1)N1[CH2+](SC(C1=O)=C1SC2=C(N1C)C=CC=C2)SC
product | N-{3-[3-Benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-4-oxothiazolidin-2-ylideneamino]-4-ethylaminophenyl}-2,2,2-trifluoroacetamide | C(C1=CC=CC=C1)N1C(SC(C1=O)=C1SC2=C(N1C)C=CC=C2)=NC=2C=C(C=CC2NCC)NC(C(F)(F)F)=O | C28H24F3N5O2S2
